US07745641B2
In a similar manner to Step 1 of Example 10, 7-amino-4-bromoisoindolinone (404 mg, 1.78 mmol) was dissolved in THF (20 mL), and the solution was treated with 2-(tributylstannyl)thiophene (1.13 mL, 3.56 mmol) and bis(triphenylphosphine)dichloropalladium (100 mg, 0.142 mmol), followed by purification by preparative thin-layer chromatography (chloroform/methanol=12/1) to obtain 7-amino-4-(thiophen-2-yl)isoindolinone (220 mg, yield 54%).

reactant | 7-amino-4-bromoisoindolinone | 1.78 mmol, 404 mg | NC=1C=CC(=C2CNC(C12)=O)Br | C8H7BrN2O
reactant | 2-(tributylstannyl)thiophene | 3.56 mmol, 1.13 mL | C(CCC)[Sn](C=1SC=CC1)(CCCC)CCCC
solvent | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | bis(triphenylphosphine)dichloropalladium | 0.142 mmol, 100 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 7-amino-4-(thiophen-2-yl)isoindolinone | 220 mg, yield 54% | NC=1C=CC(=C2CNC(C12)=O)C=1SC=CC1 | C12H10N2OS
